US20010027196A1
4-Butoxy-6-furan-2-yl-5-iodo-pyrimidin-2-v-lamine
From 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine, butanol and DBU in THF. ES-MS m/e (%): 360 (M+H+, 100).

reactant | 4-furan-2-yl-5-iodo-6-methanesulfinyl-pyrimidin-2-yl-amine | O1C(=CC=C1)C1=NC(=NC(=C1I)S(=O)C)N | C9H8IN3O2S
reactant | butanol | C(CCC)O | C4H10O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | C1CCOC1 | C4H8O
product | 4-Butoxy-6-furan-2-yl-5-iodo-pyrimidin-2-v-lamine | C(CCC)OC1=NC(=NC(=C1I)C=1OC=CC1)N | C12H14IN3O2
